US09422312B2
N′-{4-[4-(2-{[(3R,3aR,6R,6aR)-6-Hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3H-imidazo[4,5-b]pyridin-5-yl)phenyl]phenyl}-N,N-dimethyl-methanesulfonimidamide
A mixture of N′-{4-[4-(2-{[(3R,3aR,6R,6aR)-6-hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-5-yl)phenyl]phenyl}-N,N-dimethyl-methanesulfonimidamide (450 mg) and KHSO4 (2 M aqueous solution, 100 μL) in formic acid (2.4 mL) is stirred for 2 h at 60° C. The mixture is cooled to 0° C. in an ice bath and the pH is adjusted to 11 by adding NaOH (10 M aqueous solution). Tetrahydrofuran (5 mL) is added and the mixture is stirred for 2 h at room temperature. Hydrochloric acid (3 M) is added until the pH reaches 6. The mixture is diluted with ethyl acetate, washed with water and brine, and dried over MgSO4. The solvents are evaporated in vacuo and the residue is chromatographed on silica gel (ethyl acetate/methanol 95:5→80:20) to give the title compound. LC (method 1): tR=0.90 min; Mass spectrum (ESI+): m/z=570 [M+H]+.

reactant | N′-{4-[4-(2-{[(3R,3aR,6R,6aR)-6-hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-5-yl)phenyl]phenyl}-N,N-dimethyl-methanesulfonimidamide | 450 mg | O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC2=NC=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=CC=C(C=C1)N=S(=O)(N(C)C)C)N2COCC[Si](C)(C)C | C33H42ClN5O6SSi
reactant | KHSO4 | 2 M, 100 μL | OS(=O)(=O)[O-].[K+]
reactant | NaOH | 10 M | [OH-].[Na+]
reactant | Hydrochloric acid | 3 M | Cl | ClH
solvent | formic acid | 2.4 mL | C(=O)O | CH2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N′-{4-[4-(2-{[(3R,3aR,6R,6aR)-6-Hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3H-imidazo[4,5-b]pyridin-5-yl)phenyl]phenyl}-N,N-dimethyl-methanesulfonimidamide | O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC2=NC=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=CC=C(C=C1)N=S(=O)(N(C)C)C)N2 | C27H28ClN5O5S
